US08957215B2
(a) tert-Butyl (5-{6-[(tert-butoxycarbonyl)(methyl)amino]-1,3-benzothiazol-2-yl}pyridin-2-yl)methylcarbamate
NaH (95%, 4.5 mg, 0.18 mmol) was added to a solution of tert-butyl (5-{6-[(tert-butoxycarbonyl)amino]-1,3-benzothiazol-2-yl}pyridin-2-yl)methylcarbamate (66 mg, 0.14 mmol) in DMF (2 mL). The mixture was cooled to 0° C. and MeI (10 μL, 0.16 mmol) was added. The reaction was stirred at rt on. Water was added and the mixture was extracted with EtOAc (3×) The combined organic phases were dried (MgSO4) and concentrated. Flash chromatography (Heptane/EtOAc gradient) gave the product (60 mg) as a white solid. MS m/z (M+H) 471.

reactant | NaH | 0.18 mmol, 4.5 mg | [H-].[Na+]
reactant | tert-butyl (5-{6-[(tert-butoxycarbonyl)amino]-1,3-benzothiazol-2-yl}pyridin-2-yl)methylcarbamate | 0.14 mmol, 66 mg | C(C)(C)(C)OC(=O)NC1=CC2=C(N=C(S2)C=2C=CC(=NC2)CNC(OC(C)(C)C)=O)C=C1 | C23H28N4O4S
reactant | MeI | 0.16 mmol, 10 μL | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-Butyl (5-{6-[(tert-butoxycarbonyl)(methyl)amino]-1,3-benzothiazol-2-yl}pyridin-2-yl)methylcarbamate | 60 mg | C(C)(C)(C)OC(=O)N(C1=CC2=C(N=C(S2)C=2C=CC(=NC2)CNC(OC(C)(C)C)=O)C=C1)C | C24H30N4O4S
